US05366957
n-Butyllithium (2.5M, 1.45 ml) was added to a stirred cooled solution of 1-bromo-2-[2-(methylsulphenyl)4-trifluoromethylphenyl]acetylene and 1,1-dibromo-2-[2-(methylsulphenyl)4-trifluoromethylphenyl]ethene (1.0 g) in THF, maintaining the temperature below -70°C. The mixture was stirred for 30 minutes and cyclopropanecarbonyl chloride (0.75 g) was added. The temperature was allowed to rise to room temperature and the mixture was stirred for 2 hours, aqueous ammonium chloride was added and the mixture was extracted with ether, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromotography eluted with a mixture of hexane and ether to give 3-cyclopropyl-1-[2-(methylsulphenyl )-4-trifluoromethylphenyl]prop- 1-yn-3one (0.64 g) as yellow oil, NMR (CDCl3) 1.15(m,2H), 1.45(m,2H), 2.2(m,1H), 2.6(s,1H), 7.35(d,1H) 7.4(s,1H), 7.6(d, 1H).

reactant | n-Butyllithium | 2.5M, 1.45 ml | C(CCC)[Li]
reactant | 1-bromo-2-[2-(methylsulphenyl)4-trifluoromethylphenyl]acetylene | BrC#CC1=C(C=C(C=C1)C(F)(F)F)SC | C10H6BrF3S
reactant | 1,1-dibromo-2-[2-(methylsulphenyl)4-trifluoromethylphenyl]ethene | 1.0 g | BrC(=CC1=C(C=C(C=C1)C(F)(F)F)SC)Br | C10H7Br2F3S
reactant | cyclopropanecarbonyl chloride | 0.75 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-cyclopropyl-1-[2-(methylsulphenyl )-4-trifluoromethylphenyl]prop- 1-yn-3one | 0.64 g | C1(CC1)C(C#CC1=C(C=C(C=C1)C(F)(F)F)SC)=O | C14H11F3OS
